US07820700B2
Cesium fluoride and tetrakis(triphenylphosphine)-palladium were added to a 1,2-dimethoxyethane solution of (3-cyano-4-fluorophenyl)boronic acid and methyl 2-chloroisonicotinate, followed by reaction under heating to reflux to obtain methyl 2-(3-cyano-4-fluorophenyl)isonicotinate. F: 257.

reactant | Cesium fluoride | [F-].[Cs+]
reactant | (3-cyano-4-fluorophenyl)boronic acid | C(#N)C=1C=C(C=CC1F)B(O)O | C7H5BFNO2
reactant | methyl 2-chloroisonicotinate | ClC=1C=C(C(=O)OC)C=CN1 | C7H6ClNO2
catalyst | tetrakis(triphenylphosphine)-palladium | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | methyl 2-(3-cyano-4-fluorophenyl)isonicotinate | C(#N)C=1C=C(C=CC1F)C=1C=C(C(=O)OC)C=CN1 | C14H9FN2O2
